US08735384B2
Sulfuric acid (7.77 mL, 146 mmol) was added to a solution of 2-(4-chloro-3-methyl-1H-pyrazol-1-yl)-6-methylaniline (1.9 g, 8.57 mmol) in concentrated hydrogen chloride (2.056 mL, 25.7 mmol) at 0° C. The solution was stirred and after cooling back to 0° C., sodium nitrite (0.591 g, 8.57 mmol) in water (3.5 mL) was added dropwise. The reaction was stirred 40 min at 0° C. before potassium iodide (2.85 g, 17.14 mmol) in water (3.5 mL) was added dropwise and then the solution was stirred at RT. After 1 h, the reaction is poured into ice with EtOAc and separated. The aqueous layer was extracted with EtOAc. The combined organic extracts were washed with 1N HCl, water, saturated sodium bicarbonate, 1N sodium sulfite, and dried over sodium sulfate. The solution was filtered and concentrated in vacuo to give the crude material. The crude material was purified by silica gel column chromatography by eluting with 1:4 EtOAc in hexane to provide 4-chloro-1-(2-iodo-3-methylphenyl)-3-methyl-1H-pyrazole.

reactant | Sulfuric acid | 146 mmol, 7.77 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-(4-chloro-3-methyl-1H-pyrazol-1-yl)-6-methylaniline | 8.57 mmol, 1.9 g | ClC=1C(=NN(C1)C1=C(N)C(=CC=C1)C)C | C11H12ClN3
reactant | hydrogen chloride | 25.7 mmol, 2.056 mL | Cl | ClH
reactant | sodium nitrite | 8.57 mmol, 0.591 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 17.14 mmol, 2.85 g | [I-].[K+]
solvent | water | 3.5 mL | O | H2O
solvent | water | 3.5 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-chloro-1-(2-iodo-3-methylphenyl)-3-methyl-1H-pyrazole | ClC=1C(=NN(C1)C1=C(C(=CC=C1)C)I)C | C11H10ClIN2
